US07704995B2
(3-{5-amino-6-[5-(1-ethylpiperidin-3-yl)-4H-1,2,4-triazol-3-yl]pyrazin-2-yl}phenyl) methanol was prepared from 3-amino-6-[3-(hydroxymethyl) phenyl]pyrazine-2-carbonitrile and 1-ethyl piperidine-3-carbohydrazide in a manner analogous to that described in the previous example: 1H NMR (400 MHz; DMSO-d6): 8.8 (s, 1H); 8.15 (s, 1H); 8.15 (s, 1H); 8.07 (d, 1H); 7.7 (br s, 1H); 7.47 (t, 1H); 7.4 (t, 1H); 5.25 (t, 1H); 4.6 (d, 2H); 3.1-2.9 (m, 3H); 2.4 (m, 2H); 2.2-1.9 (m, 3H); 1.8-1.6 1 (m, 3H); 1.04 (t, 3H); MS (EI) for C20H25N7O: 380 (MH+).

reactant | 3-amino-6-[3-(hydroxymethyl) phenyl]pyrazine-2-carbonitrile | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CO)C#N | C12H10N4O
reactant | 1-ethyl piperidine-3-carbohydrazide | C(C)N1CC(CCC1)C(=O)NN | C8H17N3O
product | (3-{5-amino-6-[5-(1-ethylpiperidin-3-yl)-4H-1,2,4-triazol-3-yl]pyrazin-2-yl}phenyl) methanol | NC=1N=CC(=NC1C1=NN=C(N1)C1CN(CCC1)CC)C=1C=C(C=CC1)CO | C20H25N7O
